US07601728B2
tert-Butyl {(3R)-1-[5-(2-chlorobenzyl)-1,3,7-trimethyl-2,4-dioxo-2,3,4,5-tetrahydro-1H-pyrrolo[3,2-d]pyrimidin-6-yl]piperidin-3-yl}carbamate
Methyl iodide (38 μl) was added to a solution of tert-butyl {(3R)-1-[5-(2-chlorobenzyl)-7-[(dimethylamino)methyl]-1,3-dimethyl-2,4-dioxo-2,3,4,5-tetrahydro-1H-pyrrolo[3,2-d]pyrimidin-6-yl]piperidin-3-yl}carbamate (168 mg) in acetone (4 ml), and the resulting mixture was stirred overnight in a sealed tube at room temperature. The reaction solution was concentrated under reduced pressure, and to a solution of the resulting residue in tetrahydrofuran (5 ml) was added a 1N aqueous sodium hydroxide solution (3 ml), followed by stirring with heating at 60° C. for 3 hours. The tetrahydrofuran was distilled off under reduced pressure and water was added to the residue, followed by two runs of extraction with chloroform (50 ml). The organic layer was dried over sodium sulfate and filtered and the filtrate was concentrated under reduced pressure. Then, a solution of the resulting residue in dichloromethane (6 ml) was added dropwise to an ice-cooled solution of triethylsilane (144 μl) and methanesulfonic acid (60 μl) in dichloromethane (10 ml), and the resulting mixture was stirred at 0° C. for 1 hour. A 10% aqueous potassium carbonate solution was added thereto, followed by two runs of extraction with chloroform (50 ml). The organic layer was dried over sodium sulfate and filtered and the filtrate was concentrated under reduced pressure. The resulting residue was purified by a silica gel column chromatography (hexane/ethyl acetate=1/1) to obtain the title compound (101 mg).

reactant | Methyl iodide | 38 μl | CI | CH3I
reactant | tert-butyl {(3R)-1-[5-(2-chlorobenzyl)-7-[(dimethylamino)methyl]-1,3-dimethyl-2,4-dioxo-2,3,4,5-tetrahydro-1H-pyrrolo[3,2-d]pyrimidin-6-yl]piperidin-3-yl}carbamate | 168 mg | ClC1=C(CN2C(=C(C=3N(C(N(C(C32)=O)C)=O)C)CN(C)C)N3C[C@@H](CCC3)NC(OC(C)(C)C)=O)C=CC=C1 | C28H39ClN6O4
solvent | acetone | 4 ml | CC(=O)C | C3H6O
product | tert-Butyl {(3R)-1-[5-(2-chlorobenzyl)-1,3,7-trimethyl-2,4-dioxo-2,3,4,5-tetrahydro-1H-pyrrolo[3,2-d]pyrimidin-6-yl]piperidin-3-yl}carbamate | 101 mg | ClC1=C(CN2C(=C(C=3N(C(N(C(C32)=O)C)=O)C)C)N3C[C@@H](CCC3)NC(OC(C)(C)C)=O)C=CC=C1 | C26H34ClN5O4
